US06251917B1
a) (S)-2-Amino-N-(3-phenylpropan-1-ol-2yl)benzamide
The product was prepared by the method of procedure 1a from 5 g (S)-(-)-2-amino-3-phenyl-1-propanol and isatoic anhydride. 3.6 g of the product were obtained.

reactant | (S)-(-)-2-amino-3-phenyl-1-propanol | 5 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | (S)-2-Amino-N-(3-phenylpropan-1-ol-2yl)benzamide | 3.6 g | NC1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C16H18N2O2
